US08975400B2
3-hydroxy-5-(trifluoromethyl)benzonitrile
To a solution of 3-methoxy-5-(trifluoromethyl)benzonitrile (1.30 g, 6.46 mmol) in dry dichloromethane (30 mL) was added BBr3 (0.0920 mL, 0.969 mmol) at 0° C. The reaction mixture was stirred at rt for two days, quenched with 10% sodium bicarbonate (50 mL) and extracted with DCM (2×200 mL). Combined organic portions were dried over anhydrous sodium sulphate and concentrated to afford the title product (1.1 g).

reactant | 3-methoxy-5-(trifluoromethyl)benzonitrile | 6.46 mmol, 1.30 g | COC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
reactant | BBr3 | 0.969 mmol, 0.0920 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-hydroxy-5-(trifluoromethyl)benzonitrile | 1.1 g | OC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H4F3NO
